datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccc2ccccc2c1)[H:20].Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10]>>C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccc2ccccc2c1.Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20] 10=20;20,21=21",
"Clc1ccc(CNc2nc[n:10]c3[nH]ncc23)cc1.NC(=O)C(CCC(=O)[O:21][H:20])c1ccccc1>>Clc1ccc(CNc2nc[n+:10]([H:20])c3[nH]ncc23)cc1.NC(=O)C(CCC(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"CC1(C)[C@@H]2CC[C@](C(=O)[O-:10])(C2)[C@@H]1O.c1ccc2c(c1)[NH+]=C(c1cc[n+:21]([H:20])cc1)[NH2+]2>>CC1(C)[C@@H]2CC[C@](C(=O)[O:10][H:20])(C2)[C@@H]1O.c1ccc2c(c1)[NH+]=C(c1cc[n:21]cc1)[NH2+]2 10=20;20,21=21",
"Brc1c[n+](CCC[O:21][H:20])cc2ccccc12.CC1(C)CCC(=O)N1[O-:10]>>Brc1c[n+](CCC[O-:21])cc2ccccc12.CC1(C)CCC(=O)N1[O:10][H:20] 10=20;20,21=21",
"CCc1cc(C)c[n+:21]([H:20])c1.O=C(Cc1ccccc1)C(=O)[O-:10]>>CCc1cc(C)c[n:21]c1.O=C(Cc1ccccc1)C(=O)[O:10][H:20] 10=20;20,21=21",
"Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([O-])[n+:21]1[H:20].O=C1NCc2c(nc[n-:10]2)N1>>Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([O-])[n:21]1.O=C1NCc2c(nc[n:10]2[H:20])N1 10=20;20,21=21",
"CCCCCCCC[N:10]1CCCCC1.[S-]c1ncc2nc[n:21]([H:20])c2n1>>CCCCCCCC[N+:10]1([H:20])CCCCC1.[S-]c1ncc2nc[n-:21]c2n1 10=20;20,21=21",
"COC(=O)c1cccc([NH2:10])c1.Oc1ccc([NH2+:21][H:20])cc1>>COC(=O)c1cccc([NH2+:10][H:20])c1.Oc1ccc([NH2:21])cc1 10=20;20,21=21",
"Cn1n[n+:21]([H:20])cc1Nc1ccccc1.O=C(c1cccc2ccc(O)cc12)[O-:10]>>Cn1n[n:21]cc1Nc1ccccc1.O=C(c1cccc2ccc(O)cc12)[O:10][H:20] 10=20;20,21=21",
"CCOc1ccc2c(c1)c([C@@H](O)[C@@H]1C[C@H]3CC[NH+]1C[C@@H]3CC)cc[n:10]2.C[n+]1ccccc1[S:21][H:20]>>CCOc1ccc2c(c1)c([C@@H](O)[C@@H]1C[C@H]3CC[NH+]1C[C@@H]3CC)cc[n+:10]2[H:20].C[n+]1ccccc1[S-:21] 10=20;20,21=21",
"CC(C)C[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)C[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CN1CCCCCC[N:10](C)CCCCCC1.Nc1c(C(=O)[O:21][H:20])[nH+]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>CN1CCCCCC[N+:10](C)([H:20])CCCCCC1.Nc1c(C(=O)[O-:21])[nH+]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"C[NH+]1C[C@H](C(=O)[O:21][H:20])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.c1ccc(Nc2nc[n:10]c3[nH]ncc23)cc1>>C[NH+]1C[C@H](C(=O)[O-:21])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.c1ccc(Nc2nc[n+:10]([H:20])c3[nH]ncc23)cc1 10=20;20,21=21",
"Nc1c[n:10]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.O=C(Cc1cccc[n+:21]1[H:20])c1ccccc1>>Nc1c[n+:10]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.O=C(Cc1cccc[n:21]1)c1ccccc1 10=20;20,21=21",
"C/C(=C\c1cc(C(C)(C)C)c([O-:10])c(C(C)(C)C)c1)C(=O)[O-].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>C/C(=C\c1cc(C(C)(C)C)c([O:10][H:20])c(C(C)(C)C)c1)C(=O)[O-].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCOC(=O)c1c[n:10]c(N)s1.c1cc2[nH]ncc2cc1[NH2+:21][H:20]>>CCOC(=O)c1c[n+:10]([H:20])c(N)s1.c1cc2[nH]ncc2cc1[NH2:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1ccc2c(c1)CC[NH:10]C2>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1ccc2c(c1)CC[NH+:10]([H:20])C2 10=20;20,21=21",
"CC[N+:21](CC)(CCCC(C)Nc1ccnc2ccc(OC)cc12)[H:20].Nc1cc[n:10]c(-c2cc(Cl)ccn2)c1>>CC[N:21](CC)CCCC(C)Nc1ccnc2ccc(OC)cc12.Nc1cc[n+:10]([H:20])c(-c2cc(Cl)ccn2)c1 10=20;20,21=21",
"Clc1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1.Oc1ccc2nc3ccccc3[n:10]c2c1>>Clc1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1.Oc1ccc2nc3ccccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1.c1cc(-c2cc[n+:21]([H:20])cc2)co1>>O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20].c1cc(-c2cc[n:21]cc2)co1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1csc(C2CCC[NH:10]2)c1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1csc(C2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CCn1nnnc1[N:21](C(C)=O)[H:20].O=[N+]([O-])c1cccc([N-:10]S(=O)(=O)c2ccccc2)c1>>CCn1nnnc1[N-:21]C(C)=O.O=[N+]([O-])c1cccc([N:10](S(=O)(=O)c2ccccc2)[H:20])c1 10=20;20,21=21",
"COc1cc2ccccc2cc1C(=O)[O:21][H:20].N#CC(CCCCC(=O)[O-:10])c1ccccc1>>COc1cc2ccccc2cc1C(=O)[O-:21].N#CC(CCCCC(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCC[NH:10]CCC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[NH+:10](CCC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>CC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCOC(=O)C(C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)C(C)[NH2+:10][H:20] 10=20;20,21=21",
"C=CCC1(CC=C)SC(=O)[N:21]([H:20])C1=O.CC(C)C1CC(CC(=O)[O-:10])[NH2+]C1C(=O)[O-]>>C=CCC1(CC=C)SC(=O)[N-:21]C1=O.CC(C)C1CC(CC(=O)[O:10][H:20])[NH2+]C1C(=O)[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)c1ccc(NC(=O)/C=N/[O:21][H:20])cc1.Cc1cc([N+](C)(C)C)cc([O-:10])c1>>CN(C)c1ccc(NC(=O)/C=N/[O-:21])cc1.Cc1cc([N+](C)(C)C)cc([O:10][H:20])c1 10=20;20,21=21",
